US04711903
4-hydroxyphenyl thiocyanate
The title compound was prepared according to the method of Example 32 from phenol (0.35 mole), bromine (0.35 mole) and sodium thiocyanate (0.35 mole).

reactant | phenol | 0.35 mole | C1(=CC=CC=C1)O | C6H6O
reactant | bromine | 0.35 mole | BrBr | Br2
reactant | sodium thiocyanate | 0.35 mole | [S-]C#N.[Na+]
product | 4-hydroxyphenyl thiocyanate | OC1=CC=C(C=C1)SC#N | C7H5NOS
